US07414134B2
Synthesis of (R)-(2-benzenesulfonamido)pent-4-ynoic acid (33)
A mixture of d-propargylglycine (32.10 g, 88.46 mmol), Na2CO3 (20.62 g, 194.6 mmol), and benzenesulfonyl chloride (18.74 g, 106.2 mmol) in p-dioxane/H2O (1:1, 200 ml) was stirred overnight at rt. The reaction mixture was concentrated and the ph adjusted to 4.0 with 10% hcl. The aqueous layer was extracted with CHCl3 (3×), dried over mgso4, and concentrated to give the title compound. 1H NMR (400 mhz, CDCl3): δ 2.04 (s, 1h), 2.65 (s, 3h), 2.71 (m, 2h), 4.11 (m, 1h), 5.61 (d, 8.4 hz, 1h), 7.61 (m, 3h), 7.88 (m, 2h).

reactant | d-propargylglycine | 88.46 mmol, 32.10 g | C#CC[C@H](C(=O)O)N | C5H7NO2
reactant | Na2CO3 | 194.6 mmol, 20.62 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzenesulfonyl chloride | 106.2 mmol, 18.74 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | p-dioxane H2O | 200 ml | O1CCOCC1.O
product | (R)-(2-benzenesulfonamido)pent-4-ynoic acid | C1=C(C=CC=C1)S(=O)(=O)N[C@@H](C(=O)O)CC#C | C11H11NO4S
